datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"C#C[C@]1(O)C[C@H](C)[NH:10][C@@H]2CCCC[C@H]21.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C#C[C@]1(O)C[C@H](C)[NH+:10]([H:20])[C@@H]2CCCC[C@H]21.O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"C=C[C@H]1C[N+:21]2([H:20])CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccccc12.C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n:10]c2ccc(OC)cc12>>C=C[C@H]1C[N:21]2CC[C@@H]1C[C@H]2[C@H](O)c1ccnc2ccccc12.C=C[C@H]1C[NH+]2CC[C@@H]1C[C@H]2[C@H](O)c1cc[n+:10]([H:20])c2ccc(OC)cc12 10=20;20,21=21",
"CC(=O)C(=N[O-:10])C(C)=O.N#CC(C#N)=N[N:21](c1ccccc1C(F)(F)F)[H:20]>>CC(=O)C(=N[O:10][H:20])C(C)=O.N#CC(C#N)=N[N-:21]c1ccccc1C(F)(F)F 10=20;20,21=21",
"CN(C)c1ccc2cc3ccc(N(C)C)cc3[n:10]c2c1.O=S(=O)(c1ccc(O)cc1)[N:21](c1nccs1)[H:20]>>CN(C)c1ccc2cc3ccc(N(C)C)cc3[n+:10]([H:20])c2c1.O=S(=O)(c1ccc(O)cc1)[N-:21]c1nccs1 10=20;20,21=21",
"O=C([O-])C(CO)NCc1ccccc1[O:21][H:20].OCC[O-:10]>>O=C([O-])C(CO)NCc1ccccc1[O-:21].OCC[O:10][H:20] 10=20;20,21=21",
"O=[N+]([O-])[N:21](c1nnn[nH]1)[H:20].OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n:10]2)[nH]1>>O=[N+]([O-])[N-:21]c1nnn[nH]1.OCCc1cnc(P(c2[nH]c(CCO)c[nH+]2)c2[nH]c(CCO)c[n+:10]2[H:20])[nH]1 10=20;20,21=21",
"Cc1n[nH]c2c([NH2:10])cccc12.Nc1c2ccccc2[nH+]c2c([O:21][H:20])cccc12>>Cc1n[nH]c2c([NH2+:10][H:20])cccc12.Nc1c2ccccc2[nH+]c2c([O-:21])cccc12 10=20;20,21=21",
"O=C(N/N=C/c1ccccc1O)c1cc[n:10]cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O:21][H:20])c1ccccc1O>>O=C(N/N=C/c1ccccc1O)c1cc[n+:10]([H:20])cc1.O=C([O-])[C@@H](NCC[NH2+][C@@H](C(=O)[O-])c1ccccc1[O-:21])c1ccccc1O 10=20;20,21=21",
"CC[NH:10]CC[Se-].N#CC1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>CC[NH+:10](CC[Se-])[H:20].N#CC1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"C[NH:10]CC(O)CO.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>C[NH+:10](CC(O)CO)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CCCCNCCCCCC[NH:10]CCCC.O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CCCCNCCCCCC[NH+:10](CCCC)[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC1=C/C(=[O+:21]/[H:20])N(C)N1c1ccccc1.CCCNCC[NH:10]CCC>>CC1=CC(=[O:21])N(C)N1c1ccccc1.CCCNCC[NH+:10](CCC)[H:20] 10=20;20,21=21",
"CC(C)(C)CC(=O)n1cc(Br)[n+:21]([H:20])c1.CSc1cc2ccccc2[n:10]c1>>CC(C)(C)CC(=O)n1cc(Br)[n:21]c1.CSc1cc2ccccc2[n+:10]([H:20])c1 10=20;20,21=21",
"CNCC[NH:10]C.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CNCC[NH+:10](C)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"CN(C)/C=N/c1ccccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)/C=N/c1ccccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Nc1cccc2c1ncc[n+:21]2[H:20].[O-]c1ccnc[n:10]1>>Nc1cccc2c1ncc[n:21]2.[O-]c1ccnc[n+:10]1[H:20] 10=20;20,21=21",
"CC[N+:21](CC)(CC(=O)NC1CCc2ccccc21)[H:20].O=P([O-])(O)[O-:10]>>CC[N:21](CC)CC(=O)NC1CCc2ccccc21.O=P([O-])(O)[O:10][H:20] 10=20;20,21=21",
"CC1=[N:10]CCCC1.O=C1C=C([O:21][H:20])c2ccc(O)cc2O1>>CC1=[N+:10]([H:20])CCCC1.O=C1C=C([O-:21])c2ccc(O)cc2O1 10=20;20,21=21",
"Brc1ccc([NH2+:21][H:20])c(Br)c1.Cc1cc(C)c2c(O)c(CC(=O)[O-:10])oc2c1>>Brc1ccc([NH2:21])c(Br)c1.Cc1cc(C)c2c(O)c(CC(=O)[O:10][H:20])oc2c1 10=20;20,21=21",
"COCC1=C(C(=O)[O:21][H:20])C2C=CC1C2.O=S(Cc1ccccc1)c1ncc[n-:10]1>>COCC1=C(C(=O)[O-:21])C2C=CC1C2.O=S(Cc1ccccc1)c1ncc[n:10]1[H:20] 10=20;20,21=21",
"CN(C)C(N(C)C)=[O+:21][H:20].O=CN[NH2:10]>>CN(C)C(N(C)C)=[O:21].O=CN[NH2+:10][H:20] 10=20;20,21=21",
"CC1(C)CCCC(C)(C)[NH:10]1.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC1(C)CCCC(C)(C)[NH+:10]1[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCCCCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20].CN(C)/C=N/c1ccccc1[O-:10]>>CCCCCCCCCCCCCC[N:21](CC(C)O)CC(C)O.CN(C)/C=N/c1ccccc1[O:10][H:20] 10=20;20,21=21",
"CCCc1cc(Cl)cc(Cl)c1[O-:10].c1ncc(Cc2c[n+:21]([H:20])c[nH]2)[nH]1>>CCCc1cc(Cl)cc(Cl)c1[O:10][H:20].c1ncc(Cc2c[n:21]c[nH]2)[nH]1 10=20;20,21=21",
"O=S(=O)(C(F)(F)Cl)[NH:21][H:20].O=[N+]([O-])c1ccc([NH2:10])cc1>>O=S(=O)(C(F)(F)Cl)[NH-:21].O=[N+]([O-])c1ccc([NH2+:10][H:20])cc1 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc(C[N+:21]3([H:20])CCOCC3)nc12.[NH3+]CCCCCCC#CC#CCCC(=O)[O-:10]>>Cc1cc(-c2ccccc2)nn2cc(C[N:21]3CCOCC3)nc12.[NH3+]CCCCCCC#CC#CCCC(=O)[O:10][H:20] 10=20;20,21=21",
"CN(C)/C=N/c1cccc([O:21][H:20])c1.Cc1ccccc1[N+](C)(C)[O-:10]>>CN(C)/C=N/c1cccc([O-:21])c1.Cc1ccccc1[N+](C)(C)[O:10][H:20] 10=20;20,21=21",
"CC(=O)CC(=O)[NH:21][H:20].CC[NH+](CC)Cc1cc(Br)ccc1[O-:10]>>CC(=O)CC(=O)[NH-:21].CC[NH+](CC)Cc1cc(Br)ccc1[O:10][H:20] 10=20;20,21=21",
"N/C(Cc1ccccc1)=[N:10]/O.[NH3+]CCc1cccc([O:21][H:20])c1>>N/C(Cc1ccccc1)=[N+:10](/O)[H:20].[NH3+]CCc1cccc([O-:21])c1 10=20;20,21=21",
"C=CC[NH:10]CCCCCCCCCCC(=O)[O-].C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C=CC[NH+:10](CCCCCCCCCCC(=O)[O-])[H:20].C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"O=CN[O-:10].Oc1cccc2sc[n+:21]([H:20])c12>>O=CN[O:10][H:20].Oc1cccc2sc[n:21]c12 10=20;20,21=21",
"Nc1sc([N+](=O)[O-])c[n+:21]1[H:20].O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O-:10]>>Nc1sc([N+](=O)[O-])c[n:21]1.O=C(c1ccc(/C=C/[N+](=O)[O-])cc1)[O:10][H:20] 10=20;20,21=21",
